US07777047B2
N-{2-[5-(2-aminoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
To a solution of N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (0.242 g) in tetrahydrofuran (5 mL) were added triphenylphosphine (0.301 g), a 40% toluene solution (0.500 g) of diethyl azodicarboxylate and diphenylphosphorylazide (0.247 mL), and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=5:95-60:40) to give a yellow oil. To a solution of the obtained oil in tetrahydrofuran (5 mL) were added water (0.1 mL) and triphenylphosphine (0.226 g), and the mixture was stirred at room temperature for 24 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:methanol=100:0-80:20), and recrystallized from hexane-ethyl acetate to give the title compound (0.100 g, yield in two steps 41%) as pale-yellow crystals. melting point 172-174° C.

reactant | N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.242 g | OCCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C18H19N3O3S3
reactant | triphenylphosphine | 0.301 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphorylazide | 0.247 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triphenylphosphine | 0.226 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 0.1 mL | O | H2O
solvent | toluene | 0.500 g | C1(=CC=CC=C1)C | C7H8
product | N-{2-[5-(2-aminoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.100 g, 41% | NCCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C18H20N4O2S3
